US07285564B2
Preparation of (S)-3-(1-Carbamoyl-1,1-diphenylmethyl)-1-(7-oxohept-1-yl)pyrrolidine
To a stirred solution of (S)-3-(1-carbamoyl-1,1-diphenylmethyl)-1-(7-hydroxyhept-1-yl)pyrrolidine (31.00 g, 78.57 mmol); N,N-diisopropylethylamine (68.4 mL, 392.8 mmol); and methyl sulfoxide (60.7 mL, 785.7 mmol) in dichloromethane (780 mL) under an atmosphere of nitrogen at −15° C., was added sulfur trioxide pyridine complex (37.5 g, 235.71 mmol) portion-wise over a 40 min. period. The reaction mixture was maintained between −10° C. and −20° C. during the addition. The reaction was then stirred in this temperature range for 40±10 min. Deionized water (300 mL) was added and the mixture was stirred for 10 minutes. The organic layer was separated and washed with deionized water (200 mL), followed by saturated aqueous sodium chloride (200 mL) and the organic layer was then dried with magnesium sulfate (10 g). The magnesium sulfate was filtered off and washed with dichloromethane (50 mL) and the solvent was reduced in vacuo. The resultant syrup was washed with petroleum ether (2×200 mL) to remove the remaining pyridine and DMSO and the resulting white solid was dried in vacuo to give 33.02 g of the title intermediate (98% yield; >93% purity by chiral HPLC Method A).

reactant | (S)-3-(1-carbamoyl-1,1-diphenylmethyl)-1-(7-hydroxyhept-1-yl)pyrrolidine | 78.57 mmol, 31.00 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1CN(CC1)CCCCCCCO | C25H34N2O2
reactant | N,N-diisopropylethylamine | 392.8 mmol, 68.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl sulfoxide | 785.7 mmol, 60.7 mL | CS(=O)C | C2H6OS
reactant | water | 300 mL | O | H2O
solvent | dichloromethane | 780 mL | ClCCl | CH2Cl2
product | (S)-3-(1-Carbamoyl-1,1-diphenylmethyl)-1-(7-oxohept-1-yl)pyrrolidine | 33.02 g, 98% yield | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1CN(CC1)CCCCCCC=O | C25H32N2O2
